US20010027196A1
To a stirred solution of 492 mg (1.58 mmol) 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile in 15 ml dioxane under argon at room temperature were added 0.59 ml (1.74 mmol) (I-ethoxyvinyl)tributylstannane and 111 mg (0.16 mmol) bis(triphenylphosphine)palladium(II) chloride. The reaction mixture was heated at 100° C. for 18 h, then cooled to room temperature, 2 g of kieselgel added, and the mixture concentrated in vacuo. Flash chromatography (1/2 ethyl acetate/hexane then 1/1 ethyl acetate/hexane then ethyl acetate) followed by trituration in ether afforded 304 mg (64%) 2-amino-4-[5-(1-ethoxy-vinyl)-furan-2-yl]-6-methylsulfanyl-pyrimidine-5-carbonitrile as an off-white crystalline solid. EI-MS m/e (%): 302 (M+, 88), 273 ([M—C2H5]+, 100), 243 (43), 231 (52).

reactant | 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 1.58 mmol, 492 mg | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)SC | C10H7BrN4OS
reactant | (I-ethoxyvinyl)tributylstannane | 1.74 mmol, 0.59 ml | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.16 mmol, 111 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-[5-(1-ethoxy-vinyl)-furan-2-yl]-6-methylsulfanyl-pyrimidine-5-carbonitrile | 304 mg, 64% | NC1=NC(=C(C(=N1)C=1OC(=CC1)C(=C)OCC)C#N)SC | C14H14N4O2S
